US04263311
A mixture of 10.0 g. (0.027 mole) of 4,5-bis-(p-acetamidophenyl)-2-mercaptoimidazole and 4.9 g. (0.034 mole) of 2-chloroethyl bromide in 80 ml. of sieve dried dimethylformamide was refluxed with stirring under nitrogen for 75 minutes. Potassium carbonate (3.8 g., 0.027 mole) was added and the suspension was refluxed for 2 hours, then allowed to cool to room temperature and poured into 650 ml. of water. The gum which formed was filtered off and crystallized from 50 ml. of hot methanol. The crystals were washed with cold methanol and ether and air dried to give 5,6-bis(p-acetamidophenyl)-2,3-dihydroimidazo[2,1-b]thiazole, m.p. 285°-290° C.

reactant | 4,5-bis-(p-acetamidophenyl)-2-mercaptoimidazole | 0.027 mole | C(C)(=O)NC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)NC(C)=O)S | C19H18N4O2S
reactant | 2-chloroethyl bromide | 0.034 mole | ClCCBr | C2H4BrCl
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | Potassium carbonate | 0.027 mole, 3.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 5,6-bis(p-acetamidophenyl)-2,3-dihydroimidazo[2,1-b]thiazole | C(C)(=O)NC1=CC=C(C=C1)C1=C(N=C2SCCN21)C2=CC=C(C=C2)NC(C)=O | C21H20N4O2S
